US07704995B2
3-amino-N-methyl-6-[3-({[2-(phenylamino)ethyl]amino}carbonyl)phenyl]pyrazine-2-carboxamide was synthesized according to the procedure described in above from N-phenylethane-1,2-diamine and 3-{5-amino-6-[(methylamino)carbonyl]pyrazine-2-yl}benzoic acid. Yield 45%: 1H NMR (400 MHz, CDCl3): 8.90 (s, 1H), 8.82 (br d, 1H), 8.70 (br t, 1H), 8.45 (br s, 1H), 8.32 (br d, 1H), 7.82 (br d, 1H), 7.52 (t, 1H), 7.02 (t, 2H), 6.62 (d, 2H), 6.50 (t, 1H), 5.72 (br t, 1H), 3.52 (d, 2H), 3.20 (d, 2H), 2.92 (d, 3H); MS (EI) for C21H22N6O2: 391 (MH+)

reactant | N-phenylethane-1,2-diamine | C1(=CC=CC=C1)NCCN | C8H12N2
reactant | 3-{5-amino-6-[(methylamino)carbonyl]pyrazine-2-yl}benzoic acid | NC=1N=CC(=NC1C(=O)NC)C=1C=C(C(=O)O)C=CC1 | C13H12N4O3
product | 3-amino-N-methyl-6-[3-({[2-(phenylamino)ethyl]amino}carbonyl)phenyl]pyrazine-2-carboxamide | Yield 45% | NC=1C(=NC(=CN1)C1=CC(=CC=C1)C(=O)NCCNC1=CC=CC=C1)C(=O)NC | C21H22N6O2
